US05677346
reacting methyl α-cyclohexyl-α-hydroxybenzeneacetate with 4-[N-ethyl-(4-methoxyphenyl)methylamino]-2-butyn-1-ol in the presence of an anhydrous base to produce 4-[N-ethyl-(4-methoxyphenyl)methylamino]-2-butynyl α-cyclohexyl-α-hydroxybenzeneacetate; and

reactant | methyl α-cyclohexyl-α-hydroxybenzeneacetate | C1(CCCCC1)C(C(=O)OC)(C1=CC=CC=C1)O | C15H20O3
reactant | 4-[N-ethyl-(4-methoxyphenyl)methylamino]-2-butyn-1-ol | C(C)N(CC#CCO)CC1=CC=C(C=C1)OC | C14H19NO2
product | 4-[N-ethyl-(4-methoxyphenyl)methylamino]-2-butynyl α-cyclohexyl-α-hydroxybenzeneacetate | C1(CCCCC1)C(C(=O)OCC#CCN(CC)CC1=CC=C(C=C1)OC)(C1=CC=CC=C1)O | C28H35NO4
